US08124606B2
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (100 mg, 0.456 mmol), 3-chloro-N-isopropyl-4-(piperazin-1-yl)benzamide (129 mg, 0.456 mmol), (cyanomethyl)trimethylphosphonium iodide (166 mg, 0.684 mmol) and N,N-diisopropylethylamine (0.398 ml, 2.281 mmol) were suspended in propiononitrile (Volume: 1.370 ml) and heated in a closed vial at 90-120° C. for 4 h. The reaction mixture became a dark brown solution. It was cooled to room temperature, concentrated in vacuo, dissolved in DMSO (2 mL) and purified using HPLC (basic, 25-95% ACN in water, basic). The fractions were concentrated in vacuo and the resulting solid was recrystallized from water-MeOH (2:1, 15 mL) and dried in vacuum to afford (S)-3-chloro-N-isopropyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide (122.1 mg, 0.253 mmol, 55.4% yield) as a light tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.14 (d, J=6.57 Hz, 6H) 1.84-2.03 (m, 3H) 2.12-2.25 (m, 1H) 2.50-2.59 (m, 4H) 3.02 (br. s., 4H) 3.35-3.45 (m, 3H) 3.53-3.64 (m, 1H) 3.94-4.09 (m, 2H) 6.98 (d, J=1.52 Hz, 1H) 7.17 (d, J=8.59 Hz, 1H) 7.63 (d, J=1.77 Hz, 1H) 7.77 (dd, J=8.34, 2.02 Hz, 1H) 7.89 (d, J=2.02 Hz, 1H) 8.18 (d, J=7.58 Hz, 1H) 10.45 (s, 1H). [M+H] calc'd for C25H31C1N6O2, 483; found, 483.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.456 mmol, 100 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | 3-chloro-N-isopropyl-4-(piperazin-1-yl)benzamide | 0.456 mmol, 129 mg | ClC=1C=C(C(=O)NC(C)C)C=CC1N1CCNCC1 | C14H20ClN3O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.684 mmol, 166 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 2.281 mmol, 0.398 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propiononitrile | 1.370 ml | C(CC)#N | C3H5N
product | (S)-3-chloro-N-isopropyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 0.253 mmol, 122.1 mg, 55.4% yield | ClC=1C=C(C(=O)NC(C)C)C=CC1N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C25H31ClN6O2
